US07399759B2
7-methoxy-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of 2-mercapto-4-methoxybenzoic acid (1.4 g, 7.9 mmol), 2-cyanopyridine (0.89 g, 8.5 mmol) and pyridine (10 ml) was refluxed for 10 hrs as described in Example 9. After cooling, the precipitated crystals were collected by filtration and recrystallized from hexane-tetrahydrofuran to give the titled compound (1.0 g, 47%) as crystals.

reactant | 2-mercapto-4-methoxybenzoic acid | 7.9 mmol, 1.4 g | SC1=C(C(=O)O)C=CC(=C1)OC | C8H8O3S
reactant | 2-cyanopyridine | 8.5 mmol, 0.89 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 7-methoxy-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one | 1.0 g, 47% | COC1=CC2=C(C(N=C(S2)C2=NC=CC=C2)=O)C=C1 | C14H10N2O2S
